US06326369B1
2,3-Dimethoxy-7-[2-(2-pyridyloxy)ethyl]-4,5,6,7,8,9-hexahydro-1H-benzo[a]cycloheptene-1,4-dione
To a mixture of 2-[2-(1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethoxy]pyridine (700 mg), pyridine-2,6-dicarboxylic acid (907 mg), THF (14 ml), and water (7 ml) was added an water (7 ml) solution of CAN (3.97 g) with cooling with ice. After being stirred for 15 min, the reaction mixture was diluted with saturated aqueous sodium bicarbonate and extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride and dried. The solvent was removed in vacuo. The residue was purified by silica gel column chromatography (hexane to hexane:ethyl acetate=1:2) to obtain the entitled compound (490 mg) as an oil.

reactant | 2-[2-(1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethoxy]pyridine | 700 mg | COC1=C(C(=C(C2=C1CCC(CC2)CCOC2=NC=CC=C2)OC)OC)OC | C22H29NO5
reactant | pyridine-2,6-dicarboxylic acid | 907 mg | N1=C(C=CC=C1C(=O)O)C(=O)O | C7H5NO4
reactant | THF | 14 ml | C1CCOC1 | C4H8O
reactant | CAN | 3.97 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 7 ml | O | H2O
solvent | water | 7 ml | O | H2O
product | 2,3-Dimethoxy-7-[2-(2-pyridyloxy)ethyl]-4,5,6,7,8,9-hexahydro-1H-benzo[a]cycloheptene-1,4-dione | 490 mg | COC1=C(C(C2=C(CCC(CC2)CCOC2=NC=CC=C2)C1=O)=O)OC | C20H23NO5
